US08497281B2
trans-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-9-carbonitrile
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and trans-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-9-carbonitrile following a procedure analogous to that described in Example 1. Yield: 18% of theory; LC (method 1): tR=2.49 min; Mass spectrum (ESI+): m/z=357 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | trans-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-9-carbonitrile | C1CCN[C@H]2CCC3=C([C@H]12)C=C(C=C3)C#N | C14H16N2
product | trans-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-9-carbonitrile | Yield: 18% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@H]1C3=C(CC[C@H]21)C=CC(=C3)C#N | C22H20N4O
